US08017782B2
(a). 3-Bromo-4-fluoro-5-(pyrrolidine-1-sulfonyl)-benzoic acid
To a solution of 3-Bromo-5-chlorosulfonyl-4-fluoro-benzoic acid (3.0 g) in dioxane/water (9/1 (v/v), 30 ml) was added DiPEA (5 ml) and pyrrolidine (1.55 ml). After stirring for 2 h, the mixture was diluted with EtOAc and washed with 2 M aq. HCl. The organic layer was dried (Na2SO4) and concentrated in vacuo. Yield: 2.3 g.

reactant | 3-Bromo-5-chlorosulfonyl-4-fluoro-benzoic acid | 3.0 g | BrC=1C=C(C(=O)O)C=C(C1F)S(=O)(=O)Cl | C7H3BrClFO4S
reactant | DiPEA | 5 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | pyrrolidine | 1.55 ml | N1CCCC1 | C4H9N
solvent | dioxane water | 30 ml | O1CCOCC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Bromo-4-fluoro-5-(pyrrolidine-1-sulfonyl)-benzoic acid | BrC=1C=C(C(=O)O)C=C(C1F)S(=O)(=O)N1CCCC1 | C11H11BrFNO4S
